testing c2
.include TSMC_180nm.txt

* Parameters
.param time=50n
.param lambda = 0.09u
.param L = 2*lambda
.param Wn = 20*lambda
.param Wp = 20*lambda
.global gnd vdd


.SUBCKT Nswitch gate src drn width=1
M1 drn gate src gnd CMOSN W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS Nswitch

.SUBCKT Pswitch gate src drn width=1
M2 drn gate src vdd CMOSP W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS Pswitch

.subckt inverter in out 
X1 in vdd out Pswitch width={wp/2}
X2 in gnd out Nswitch width={wn}
.ends


** Subcircuit for XOR gate
.SUBCKT XOR_GATE a b a_bar b_bar out
X1 a vdd n1 PSWITCH width={4*Wp}
X2 b_bar n1 out PSWITCH width={4*Wp}
X3 a_bar vdd n2 PSWITCH width={4*Wp}
X4 b out n2 PSWITCH width={4*Wp}
X5 a gnd n3 NSWITCH width={2*Wp}
X6 b n3 out NSWITCH width={2*Wp}
X7 a_bar gnd n4 NSWITCH width={2*Wp}
X8 b_bar out n4 NSWITCH width={2*Wp}
.ENDS XOR_GATE



** Subcircuit for AND gate
.SUBCKT AND_GATE a b a_bar b_bar out
X11 a vdd n1 PSWITCH width={4*Wp}
X12 b n1 out PSWITCH width={4*Wp}
X13 a gnd n2 NSWITCH width={2*Wp}
X14 b n2 out NSWITCH width={2*Wp}
.ENDS AND_GATE




* Voltage Sources
Vdd vdd gnd DC 1.8

* Define PWL for clock period
* Adjust PWL sources for time alignment
VVa0 a0 gnd pwl (0 0v {time-0.1ns} 0v {time} 1.8v {2*time} 1.8v)
Va0_bar a0_bar gnd pwl (0 1.8v {time-0.1ns} 1.8v {time} 0v {2*time} 0v)

Vb0 b0 0 0
Vb0_bar b0_bar 0 1.8

Va1 a1 0 0
Vb1 b1 gnd pwl (0 0v {time-0.1ns} 0v {time} 1.8v {2*time} 1.8v)
Va1_bar a1_bar 0 1.8
Vb1_bar b1_bar gnd pwl (0 1.8v {time-0.1ns} 1.8v {time} 0v {2*time} 0v)

Va2 a2 0 0
Vb2 b2 0 0
Va2_bar a2_bar 0 1.8
Vb2_bar b2_bar 0 1.8

Va3 a3 0 0
Vb3 b3 0 0
Va3_bar a3_bar 0 1.8
Vb3_bar b3_bar 0 1.8

* Clock signal
Vinclk clk gnd PULSE(0 1.8 0n 0.1n 0.1n {time} {2*time})
vinclkbar clk_bar gnd PULSE( 1.8 0 0n 0.1n 0.1n {time} {2*time})



.subckt inv in out
X1 in vdd out Pswitch width={wp}
X2 in vss out Nswitch width={wn}
.ends

*** Tristate Buffer*
.SUBCKT tristate in en enb out
X1 in vdd n1 Pswitch width={2*Wp}
X2 enb n1 out Pswitch width={2*Wp}
X3 en out n2 Nswitch width={Wn/2}
X4 in vss n2 Nswitch width={Wn/2}
.ENDS tristate

*** D Latch Subcircuit**
.SUBCKT dlatch d clk clk_b q q_b
Xtristate1 d clk clk_b q_b tristate
Xinv1 q_b q inv
Xtristate2 q clk_b clk q_b tristate
.ENDS dlatch


.SUBCKT dff d clk q q_b 
Xclk_inv clk clk_b vdd vss inv
Xmaster_latch d clk_b clk master_q master_qb dlatch
Xslave_latch master_q clk clk_b q q_b dlatch
.ENDS dff


Xra0d1 a0 clk qa0 qa0_bar dff
Xra1d1 a1 clk qa1 qa1_bar dff
Xra2d1 a2 clk qa2 qa2_bar dff
Xra3d1 a3 clk qa3 qa3_bar dff

Xrb0d1 b0 clk qb0 qb0_bar dff
Xrb1d1 b1 clk qb1 qb1_bar dff
Xrb2d1 b2 clk qb2 qb2_bar dff
Xrb3d1 b3 clk qb3 qb3_bar dff

*  PG BLOCK 
**********************
** Circuit instantiation
XXOR0 qa0 qb0 qa0_bar qb0_bar p0 XOR_GATE
XAND0 qa0 qb0 qa0_bar qb0_bar g0 AND_GATE
XXOR1 qa1 qb1 qa1_bar qb1_bar p1 XOR_GATE
XAND1 qa1 qb1 qa1_bar qb1_bar g1 AND_GATE
XXOR2 qa2 qb2 qa2_bar qb2_bar p2 XOR_GATE
XAND2 qa2 qb2 qa2_bar qb2_bar g2 AND_GATE
XXOR3 qa3 qb3 qa3_bar qb3_bar p3 XOR_GATE
XAND3 qa3 qb3 qa3_bar qb3_bar g3 AND_GATE


* CLA blocks 
*********
* C1
X1 p0 VDD N1 Pswitch width={4*wp}
X2 c0 VDD N1 Pswitch width={4*wp}
X3 g0 N1 C1  Pswitch width={4*wp}

X11 p0 C1 N2 Nswitch width=(2*wp)
X12 c0 n2 gnd Nswitch width={2*wp}
X13 g0 C1 gnd Nswitch width={wp}

X20 C1 C10 inverter

*C2
Xi4 co VDD N3 Pswitch width={8*wp}
Xi5 go N3 N4 Pswitch width={8*wp}
Xi6 g1 N4 C2 Pswitch width={4*wp}
xi7 p0 VDD N3 Pswitch width={8*wp}
xi8 p1 VDD N4 Pswitch width={4*wp}

Xi14 p1 C2 N5 Nswitch width={2*wp}
Xi15 p0 N5 N6 Nswitch width={4*wp}
Xi16 c0 N6 0 Nswitch width={4*wp}
xi17 g0 N5 0 Nswitch width={2*wp}
xi18 g1 C2 0 Nswitch width={wp}

Xi20 C2 C12 inverter

*C3
Xii1 co VDD N7 Pswitch width={16*wp}
Xii2 g0 N7 N8 Pswitch width={16*wp}
Xii3 g1 N8 N9 Pswitch width= {8*wp}
Xii4 g2 N9 C3 Pswitch width={4*wp}
Xii5 p0 VDD N7 Pswitch width={16*wp}
Xii6 p1 VDD N8 Pswitch width={8*wp}
Xii7 p2 VDD N9 Pswitch width={8*wp}

Xii11 p2 C3 N10 Nswitch width={2*wp}
Xii12 p1 N10 N11 Nswitch width={4*wp}
Xii13 p0 N11 N12 Nswitch width={8*wp}
Xii14 c0 N12 0 Nswitch width={8*wp}
Xii15 g0 N11 0 Nswitch width={4*wp}
Xii16 g1 N10 0 Nswitch width={2*wp}
Xii17 g2 C3 0 Nswitch width={Wp}

Xii20 C3 C13 inverter

*C4
Xiii1 co VDD N13 Pswitch width={32*wp}
Xiii2 g0 N13 N14 Pswitch width={32*wp}
Xiii3 g1 N14 N15 Pswitch width={16*wp}
Xiii4 g2 N15 N16 Pswitch width={8*wp}
Xiii5 g3 N16 C4 Pswitch width={4*wp}
Xiii6 p0 VDD N13 Pswitch width={32*wp}
Xiii7 p1 VDD N14 Pswitch width={16*wp}
Xiii8 p2 VDD N15 Pswitch width={8*wp}
Xiii9 p3 VDD N16 Pswitch width={4*wp}
 
Xiii11 p3 C4 N17 Nswitch width={2*wp}
Xiii12 p2 N17 N18 Nswitch width={4*wp}
Xiii13 p1 N18 N19 Nswitch width={8*wp}
Xiii14 p0 N19 N20 Nswitch width={16*wp}
Xiii15 c0 N20 0 Nswitch width={16*wp}
Xiii16 g0 N19 0 Nswitch width={8*wp}
Xiii17 g1 N18 0 Nswitch width={4*wp}
Xiii18 g2 N17 0 Nswitch width={2*wp}
Xiii19 g3 C4 0 Nswitch width={wp}

Xiii20 C4 C14 inverter
********
Xinv299 c1 c1_bar inverter
Xinv399 c2 c2_bar inverter
Xinv499 c3 c3_bar inverter

********

Xxoras1 a0   b0 a0_bar b0_bar  s0 xor_gate

Xxor21 a1  b1 a1_bar b1_bar  ps1 xor_gate
xinv219 ps1 ps1_bar inverter
Xxor22 ps1  c1 ps1_bar c1_bar  s1 xor_gate

Xxor31 a2  b2 a2_bar b2_bar  ps2 xor_gate
Xinv2x13 ps2 ps2_bar inverter
Xxor32 ps2  c2 ps2_bar c2_bar  s2 xor_gate

Xxor41 a3  b3 a3_bar b3_bar  ps3 xor_gate
Xinv213 ps3 ps3_bar inverter
Xxor42 ps3  c3 ps3_bar c3_bar  s3 xor_gate


X8753s0 s0 clk outs0 outs0_bar dff
X8753s1 s1 clk outs1 outs1_bar dff
X8753s2 s2 clk outs2 outs2_bar dff
X8753s3 s3 clk outs3 outs3_bar dff
X8753c4 c4 clk outc4 outc4_bar dff

* Analysis commands
.control
set hcopypscolor = 1 
set color0=white 
set color1=black 
set temp=27
tran 0.1n 200n
plot a0 a1+2 a2+4 a3+6
plot b0 b1+2 b2+4 b3+6
plot s0 s1+2 s2+4 s3+6 c4+8

.endc
.end